US04490366
15.0 g of 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine and 15 ml of triethylamine were dissolved in 75 ml of dry dioxane, and the resulting solution was cooled with ice. To the solution was added 13.6 g of 2,3-dimethoxybenzoyl chloride, and the resulting mixture was allowed to stand at room temperature for 30 minutes and then at 90° C. for 30 minutes. The crystals produced were filtered off, and the filtrate was concentrated under reduced pressure. To the oily residue was added 200 ml of ethanol. Upon heating, the mixture began to separate crystals while the oily residue was dissolved. After dissolving the oily residue completely, the mixture was cooled, and there was obtained 2'-deoxy-3',5'-di-O-acetyl-3-(2,3-dimethoxybenzoyl)-5-fluorouridine as crystals. Recrystallization of the product from ethanol afforded 19.65 g (yield: 88.4%) or colorless needles having a melting point of 139° to 141° C. The structure was supported by the absorption spectra and elemental analysis.

reactant | 2'-deoxy-3',5'-di-O-acetyl-5-fluorouridine | 15.0 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)F | C13H15FN2O7
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxybenzoyl chloride | 13.6 g | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-3',5'-di-O-acetyl-3-(2,3-dimethoxybenzoyl)-5-fluorouridine | yield: 88.4% | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)N(C(=O)C(=C1)F)C(C1=C(C(=CC=C1)OC)OC)=O | C22H23FN2O10
